US05387583
16α-bromo-3β,7β,17β-trihydroxyandrost-5-ene (CLIII, X=Br) is reacted with sodium hydroxide in dimethylformamide to form 3β,7β,16α,17β-tetrahydroxyandrost-5-ene (CLXI)

reactant | 16α-bromo-3β,7β,17β-trihydroxyandrost-5-ene | Br[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1[C@H](C=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)O | C19H29BrO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3β,7β,16α,17β-tetrahydroxyandrost-5-ene | O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O)O | C19H30O4
